US06884821B1
Using methyl 2-chloro-4-hydroxybenzoate and cyclopentyl bromide, 2-chloro-4-cyclopentyloxybenzoic acid was obtained in the same manner as in Example 277b).

reactant | methyl 2-chloro-4-hydroxybenzoate | ClC1=C(C(=O)OC)C=CC(=C1)O | C8H7ClO3
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
product | 2-chloro-4-cyclopentyloxybenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)OC1CCCC1 | C12H13ClO3
